US05811428
A mixture of benzaldehyde (1.04 g, 9.40 mmol), 3,5-dichloroaniline (1.71 g, 10.60 mmol), and HOAc (0.20 mL) in MeOH (35 mL) was cooled to 0° C. Then a solution of NaBH3CN (28.0 mL, 28.0 mmol, 1.0 M solution in THF) was added dropwise via a syringe pump over 0.25 h. The solution was allowed to stir an additional 0.3 h at 0° C., and then room temperature for 18 h. The excess NaBH3CN was quenched with HCl and the solvent was removed under reduced pressure. The resulting oil was dissolved in EtOAc/H2O, basified with NaOH, and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered and the solvent removed under reduced pressure. The resulting oil was purified by chromatography (SiO2, 15:1 hexanes/EtOAc) to provide N-benzyl-3,5-dichloroaniline as a white solid. This compound was coupled to 2-chloro-4-trifluoromethylpyrimidine-5-carbonyl chloride as described and purified by chromatography (SiO2, 9:1 hexanes/EtOAc) to provide the title compound (15% yield) as a white foam; m.p. 102°-104° C.

reactant | benzaldehyde | 9.40 mmol, 1.04 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3,5-dichloroaniline | 10.60 mmol, 1.71 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | HOAc | 0.20 mL | CC(=O)O | C2H4O2
reactant | NaBH3CN | 28.0 mmol, 1.0 M, 28.0 mL | [BH3-]C#N.[Na+]
solvent | MeOH | 35 mL | CO | CH4O
product | N-benzyl-3,5-dichloroaniline | C(C1=CC=CC=C1)NC1=CC(=CC(=C1)Cl)Cl | C13H11Cl2N
